US07655670B2
1-(methylcarbonyloxy-methyl)-5-(4-methoxy-cyclohexyl-cabonyl)-spiro[indoline-3,4′-piperidin]-2-one (Compound #22)
4-Methoxy-cyclohexanecarboxylic acid (0.006 g, 0.036 mmol) was suspended in dry dichloromethane (1 mL) and dry N,N-dimethylformamide (0.05 mL). 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide HCl salt (0.005 g, 0.04 mmol) and 1-hydroxybenzotriazole hydrate (0.006 g, 0.047 mmol) were added and the reaction mixture was stirred under nitrogen atmosphere at room temperature for 30 minutes. A solution of 1-(methoxycarbonyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one (0.010 g, 0.036 mmol) in dry dichloromethane (1 mL) was added under nitrogen atmosphere and the reaction mixture was stirred under nitrogen atmosphere at room temperature for 18 hrs. The reaction mixture was then partitioned with water and dichloromethane. The organic layer was washed with aqueous NaHCO3, aqueous 0.5 N HCl, brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield a crude oil. The crude oil was purified via flash chromatography (4% ammonia 2.0 M in methanol/dichloromethane) to yield the title compound as an oil.

reactant | 4-Methoxy-cyclohexanecarboxylic acid | 0.036 mmol, 0.006 g | COC1CCC(CC1)C(=O)O | C8H14O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide HCl salt | 0.04 mmol, 0.005 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.047 mmol, 0.006 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(methoxycarbonyl-methyl)-spiro[indoline-3,4′-piperidin]-2-one | 0.036 mmol, 0.010 g | COC(=O)CN1C(C2(CCNCC2)C2=CC=CC=C12)=O | C15H18N2O3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.05 mL | CN(C=O)C | C3H7NO
product | 1-(methylcarbonyloxy-methyl)-5-(4-methoxy-cyclohexyl-cabonyl)-spiro[indoline-3,4′-piperidin]-2-one | CC(=O)OCN1C(C2(CCNCC2)C2=CC(=CC=C12)C(=O)C1CCC(CC1)OC)=O | C23H30N2O5
